US06358971B1
2-Trifluoroacetamido-3-iodo-6-benzoyl-imidazo[1,2-a]pyridine
To a solution of 2-trifluoroacetamido-6-benzoyl-imidazo[1,2-a]pyridine (2.0 g, 6.0 mmol) in 50 ml of dry CH3CN cooled at 0° C., was added N-iodosuccinimide (1.35 g, 6.0 mmol) portionwise. The mixture was stirred for 10 minutes. Acetonitrile was removed in vacuo and the residue was dissolved in EtOAc (250 ml), washed with NaHSO3 (40% p/v, 2×200 ml) and NaHCO3 (2×200 ml). The organic layer was dried (Na2SO4) and EtOAc was removed in vacuo to afford 2.60 g (95%) of product as a yellow solid. EIMS, NMR.

reactant | 2-trifluoroacetamido-6-benzoyl-imidazo[1,2-a]pyridine | 6.0 mmol, 2.0 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1)(F)F | C16H10F3N3O2
reactant | N-iodosuccinimide | 6.0 mmol, 1.35 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 2-Trifluoroacetamido-3-iodo-6-benzoyl-imidazo[1,2-a]pyridine | 2.60 g, 95% | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1I)(F)F | C16H9F3IN3O2
